US06350750B1
Part C: To a suspension of 14.2 g (59.5 mmol) of 2-methyl-4-hydroxy-8-bromo-quinazoline in 300 ml of benzene, 16 ml (120 mmol) of dimethylaniline and 6 ml (64 mmol) of phosphorus oxychloride were added under nitrogen. The light yellow solution resulting after heating to 80° C. while stirring was further heated at 80° C. for 3 hours. After cooling to room temperature 500 ml of benzene were added. The solution was extracted three times with 300 ml of 20% NaOH/water and 200 ml of water. The organic layer was dried over magnesium sulphate and concentrated in vacuo. The product was purified by column chromatography over silicagel using ether/petroleum-ether 1:9 as the eluent. A total of 12.3 g of 2-methyl-4-chloro-8-bromo-quinazoline was obtained as a white solid (80% yield).

reactant | 2-methyl-4-hydroxy-8-bromo-quinazoline | 59.5 mmol, 14.2 g | CC1=NC2=C(C=CC=C2C(=N1)O)Br | C9H7BrN2O
reactant | dimethylaniline | 120 mmol, 16 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 64 mmol, 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-methyl-4-chloro-8-bromo-quinazoline | 12.3 g | CC1=NC2=C(C=CC=C2C(=N1)Cl)Br | C9H6BrClN2
